US07501427B2
N-Propanol (20 ml), benzylcarbamate (4 g, 27 mmol), and 1 ,3-dichloro-5,5-dimethylhydantoin (2.6 g, 13 mmol) are added to a solution of NaOH (1 g, 27 mmol) in water (40 ml). The reaction mixture is cooled to 0° C. and a solution of 2,5-dihydro-pyrrole-1 -carboxylic acid tert-butyl ester (1.51 g, 8.92 mmol) in n-propanol (10 ml) is added. A solution of potassium osmate (0.098 g, 0.268 mmol) in 0.65 M NaOH (1 ml) is added. The reaction mixture is stirred at 0° C. for 1 hour and then at room temperature for 2 hours. The reaction mixture is quenched with sodium sulfite (1.90 g, 15 mmol) and diluted with approximately 1:1 EtOAc:water (100 ml). The aqueous layer is extracted with ethyl acetate, the combined organic extracts dried (MgSO4) and concentrated. Purification on a silica gel column (4:1 hexanes:EtOAc) yields 3-benzyloxycarbonylamino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester.

reactant | benzylcarbamate | 27 mmol, 4 g | C(C1=CC=CC=C1)NC([O-])=O
reactant | 1 ,3-dichloro-5,5-dimethylhydantoin | 13 mmol, 2.6 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | 2,5-dihydro-pyrrole-1 -carboxylic acid tert-butyl ester | 8.92 mmol, 1.51 g | C(C)(C)(C)OC(=O)N1CC=CC1 | C9H15NO2
reactant | sodium sulfite | 15 mmol, 1.90 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | n-propanol | 10 ml | C(CC)O | C3H8O
reactant | N-Propanol | 20 ml | CCCO | C3H8O
solvent | water | 40 ml | O | H2O
solvent | NaOH | 0.65 M, 1 ml | [OH-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | NaOH | 27 mmol, 1 g | [OH-].[Na+]
product | 3-benzyloxycarbonylamino-4-hydroxy-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(C(C1)O)NC(=O)OCC1=CC=CC=C1 | C17H24N2O5
